US09340538B2
Step A: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(2,4,6-trifluorophenyl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(2,4,6-trifluorophenyl)-1,4-dihydropyrimidine-5-carboxylate (6.31 g, 13.4 mmol) (The compound was synthesized according to the procedure as described in CN200610098646.3) was reacted with NBS (2.87 g, 16.1 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (4.1 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(2,4,6-trifluorophenyl)-1,4-dihydropyrimidine-5-carboxylate | 13.4 mmol, 6.31 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=C(C=C(C=C1F)F)F | C20H15BrF4N2O2
reactant | NBS | 16.1 mmol, 2.87 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(2,4,6-trifluorophenyl)-1,4-dihydropyrimidine-5-carboxylate | 4.1 g, 55% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=C(C=C(C=C1F)F)F | C20H14Br2F4N2O2
